US05565483
Freshly prepared tBuOCl (2.2 g, 20 mmol) was added dropwise to a stirred cold (-65 ° C.) solution of 3,5-bis-(trifluoromethyl)aniline (4.58 g, 20 mmol) in anhydrous CH2Cl2 (25 mL). After 10 minutes, neat ethyl (methylthio)acetate (2.68 g, 20 mmol) was added and the mixture; stirred at -65° C. for 1 hr. Triethylamine (2.68 g, 20 mmol) was added and then the mixture was allowed to warm to room temperature. The reaction mixture was quenched with water, the organic layer was separated and then rotary evaporated. The oily residue (6.35 g) was dissolved in hexanes and boiled for several hours and then allowed to cool. The precipitated beige solid was filtered and washed with hexanes to afford 3.67 g of pure (methylthio) indolone intermediate.

reactant | tBuOCl | 20 mmol, 2.2 g | C(C)(C)(C)OCl | C4H9ClO
reactant | 3,5-bis-(trifluoromethyl)aniline | 20 mmol, 4.58 g | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
reactant | ethyl (methylthio)acetate | 20 mmol, 2.68 g | CSCC(=O)OCC | C5H10O2S
reactant | Triethylamine | 20 mmol, 2.68 g | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | (methylthio) indolone | 3.67 g | CSC=1C(N=C2C=CC=CC12)=O | C9H7NOS
